US05026625
A mixture of 60.8 g of n-butyl methanesulphonate and 22.5 g of trifluoroacetyl-2,4-difluoroaniline is dissolved in 50 ml of acetone at 40° C., and 22.4 g of KOH powder are added. The reaction mixture is kept at reflux for 30 minutes, filtered and evaporated on a rotary evaporator. The oily residue is rectified. 15 g of N-butyltrifluoroacetyl-2,4-difluoroaniline are obtained as a yellowish oil which distills at 106 - 110°/11.7 mbar.

reactant | n-butyl methanesulphonate | 60.8 g | CS(=O)(=O)OCCCC | C5H12O3S
reactant | trifluoroacetyl-2,4-difluoroaniline | 22.5 g | FC(C(=O)NC1=C(C=C(C=C1)F)F)(F)F | C8H4F5NO
reactant | KOH | 22.4 g | [OH-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | N-butyltrifluoroacetyl-2,4-difluoroaniline | 15 g | C(CCC)N(C1=C(C=C(C=C1)F)F)C(C(F)(F)F)=O | C12H12F5NO
